US06077953
Three mililiters (3 ml) of a mixture of sulfuric acid and water (v/v=2/1), and 1.5 g of 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-ethoxycarbonyl-4-methyl-5-trifluoromethylpyridazin-3-one (the present compound 1-31) were mixed and heated for 6 hours on a 130° C. oil bath. The reaction solution was cooled to room temperature, poured into 50 ml of water. The precipitated crystals were filtered off and washed with 50 ml of water twice. The crystals were dissolved with 100 ml of ethyl acetate and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the obtained crystals were washed with 20 ml of n-hexane to afford 0.55 g of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4methyl-5-trifluoromethylpyridazin-3-one (yield:50%).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-ethoxycarbonyl-4-methyl-5-trifluoromethylpyridazin-3-one | 1.5 g | ClC1=CC(=C(C=C1OC(C)C)N1N=C(C(=C(C1=O)C)C(F)(F)F)C(=O)OCC)F | C18H17ClF4N2O4
solvent | water | 50 ml | O | H2O
product | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4methyl-5-trifluoromethylpyridazin-3-one | 0.55 g, yield:50% | ClC1=CC(=C(C=C1O)N1N=CC(=C(C1=O)C)C(F)(F)F)F | C12H7ClF4N2O2
